US05736534
(6-Chloro-4-(6-chloro-2,3-dihydro-indol-1-yl)-7-methoxy-quinazoline
Utilizing a procedure analogous to that described in Example 1, this product was prepared in 17% yield from 6-chloro-indoline and 4,6-dichloro-7-methoxy-quinazoline. (M.P. 226° C.; LC-MS: 346 (MH+)).

reactant | 6-chloro-indoline | ClC1=CC=C2CCNC2=C1 | C8H8ClN
reactant | 4,6-dichloro-7-methoxy-quinazoline | ClC1=NC=NC2=CC(=C(C=C12)Cl)OC | C9H6Cl2N2O
product | 6-Chloro-4-(6-chloro-2,3-dihydro-indol-1-yl)-7-methoxy-quinazoline | 17% yield | ClC=1C=C2C(=NC=NC2=CC1OC)N1CCC2=CC=C(C=C12)Cl | C17H13Cl2N3O
